US06489322B1
b) 7-Nitro-2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one
To 2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one (30.34 g, 190 mmol) in conc. sulfuric acid (600 ml) at 0° C. was added potassium nitrate (20.82 g, 206 mmol) portionwise. The mixture was stirred for 20 minutes at 0° C. and then for 4 h at room temperature. The mixture was poured onto ice (21) and the solids were collected by filtration. The solids were taken up in hot ethyl acetate and then cooled to yield the title compound (8.79 g, 22%), MS m/z 209 [M+H]+.

reactant | 2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one | 190 mmol, 30.34 g | O1CCNC(C2=C1C=CC=C2)=O | C9H9NO2
reactant | potassium nitrate | 206 mmol, 20.82 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 600 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Nitro-2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one | 8.79 g, 22% | [N+](=O)([O-])C=1C=CC2=C(C(NCCO2)=O)C1 | C9H8N2O4
